US05688798
A solution of 0.95 g (0.00494 mol) of 1-(4-methoxy-phenyl)-piperazine in 30 ml of dimethylformamide was treated with 1.37 ml (0.00986 mol) of triethylamine and 0.60 g (0.00164 mol) of 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide and the mixture was stirred at room temperature under argon for 65 hours. The mixture was completely freed from the solvents. The residue was chromatographed over silica gel with acetonitrile/methanol (1:1 ), digested in diethyl ether and subsequently filtered off under suction. 0.24 g (47%) of 5-[4-(4-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine was obtained as white crystals; m.p. 239°-241°.

reactant | 1-(4-methoxy-phenyl)-piperazine | 0.00494 mol, 0.95 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
reactant | triethylamine | 0.00986 mol, 1.37 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide | 0.00164 mol, 0.60 g | Br.Br.BrCC=1C(=NC(=NC1)N)N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-[4-(4-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine | 0.24 g, 47% | COC1=CC=C(C=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | C16H22N6O
